US05059689
57.8 g of 2,4-dichloro-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine are suspended in 200 ml of xylene at room temperature. 25.8 g of dibutylamine are added dropwise to this during the course of 15 minutes, the temperature climbing to 40°. A solution of 8.87 g of sodium hydroxide in 40 ml of water is added to the reaction mixture in about 15 minutes and it is subsequently stirred at 60° for 2 hours. The aqueous phase is then separated off and 28.4 g of dibutylamine and a solution of 9.6 g of sodium hydroxide in 20 ml of water is added to the clear organic phase. The mixture is then heated in a water separator until an internal temperature of about 135° is reached and is then stirred for 12 hours at this temperature. The contents of the flask are cooled to 90°, a solution of 3 g of sodium hydroxide in 100 ml of water is added and the mixture is vigorously stirred at 90° for 30 minutes. The aqueous phase is then separated off, the xylene solution is washed five times, each with 100 ml of water, and evaporated in vacuo. The yellowish, oily residue is distilled in a high vacuum. 2,4-Bis-dibutylamino-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine is obtained as a colorless oil having a boiling point of 173° at 6.5 Pa.

reactant | 2,4-dichloro-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine | 57.8 g | ClC1=NC(=NC(=N1)Cl)N1C(CCCC1(C)C)(C)C | C12H18Cl2N4
reactant | dibutylamine | 25.8 g | C(CCC)NCCCC | C8H19N
reactant | sodium hydroxide | 8.87 g | [OH-].[Na+]
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 40 ml | O | H2O
product | 2,4-Bis-dibutylamino-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine | C(CCC)N(C1=NC(=NC(=N1)N(CCCC)CCCC)N1C(CCCC1(C)C)(C)C)CCCC | C28H54N6
